US09029552B2
To a mixture of 1.00 g (3.3 mmol) of ethyl 2-(t-butoxycarbonyl)amino-4-chloropicolinate and 20 mL of anhydrous ethanol, 0.38 g (10.0 mmol) of sodium borohydride was added, followed by stirring at room temperature for 17 hours. To the reaction solution, dilute hydrochloric acid was added thereby adjusting the pH to 2 and the solution was neutralized by adding saturated sodium bicarbonate aqueous solution. After ethanol was removed under reduced pressure, the resultant was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=3/1 (v/v)) to obtain 0.75 g (2.9 mmol, yield of 87%) of 2-(t-butoxycarbonyl)amino-4-chloro-6-hydroxymethylpyridine.

reactant | ethyl 2-(t-butoxycarbonyl)amino-4-chloropicolinate | 3.3 mmol, 1.00 g | C(C)(C)(C)OC(=O)NC1(NC=CC(=C1)Cl)C(=O)OCC | C13H19ClN2O4
reactant | sodium borohydride | 10.0 mmol, 0.38 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(t-butoxycarbonyl)amino-4-chloro-6-hydroxymethylpyridine | 2.9 mmol, 0.75 g, yield of 87% | C(C)(C)(C)OC(=O)NC1=NC(=CC(=C1)Cl)CO | C11H15ClN2O3
